US07498337B2
2-[4-(difluoromethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
A solution (10 mL) of 1-bromo-4-(difluoromethoxy)benzene (500 mg), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (654 mg), potassium acetate (660 mg) and 1,1′-bis(diphenylphosphino)ferrocene dichloropalladium (73.2 mg) in dimethylformamide was stirred at 80° C. for 3 hr. The reaction mixture was cooled to room temperature, diluted with ethyl acetate and filtered through celite. The filtrate was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→8:1) to give the title compound as a pale-yellow oil (yield 348 mg, 58%).

reactant | 1-bromo-4-(difluoromethoxy)benzene | 10 mL, 500 mg | BrC1=CC=C(C=C1)OC(F)F | C7H5BrF2O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 654 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 660 mg | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene dichloropalladium | 73.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[4-(difluoromethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | yield 348 mg, 58% | FC(OC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C13H17BF2O3
